US07094908B2
(39) Ethyl 2-(4-acetoxy-1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-3-oxo-butyrate
Ethyl 3-(4-hydroxy-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate (102.4 mg, 0.34 mmol) was dissolved in dichloromethane, and pyridine (55 μl, 0.682 mmol) and acetyl chloride (49 μl, 0.68 mmol) were then slowly added dropwise to the obtained solution at 0° C. The resulting mixture was then stirred at the same temperature for 10 minutes. After the reaction was completed, the reaction mixture was washed with water and then the aqueous layer was extracted with dichloromethane. The combined organic layer was dried with anhydrous sulfate and distilled under a reduced pressure. The desired product (64 mg, 54%) was obtained by performing column chromatography (eluent: n-hexane/ethyl acetate=3/1).

reactant | Ethyl 3-(4-hydroxy-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | 0.34 mmol, 102.4 mg | OC1=C2C(N(C(C2=CC=C1)=O)CC(C(=O)OCC)C1(OCCO1)C)=O | C17H19NO7
reactant | pyridine | 0.682 mmol, 55 μl | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.68 mmol, 49 μl | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | ClCCl | CH2Cl2
product | Ethyl 2-(4-acetoxy-1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-3-oxo-butyrate | 64 mg, 54% | C(C)(=O)OC1=C2C(N(C(C2=CC=C1)=O)CC(C(=O)OCC)C(C)=O)=O | C17H17NO7
